US06017917
To a solution of guanidine.hydrochloride (0.4 g) in N,N-dimethylformamide (7.2 ml) was added sodium methoxide (0.76 ml, 28% in methanol) under nitrogen atmosphere. After being stirred for 15 minutes at room temperature, to the reaction mixture was added methyl 5-(2,5-dichlorophenyl)-3-[(2-dimethylaminoethyl)carbamoyl]benzoate.hydrochloride (0.36 g). After being stirred for 4 hours at room temperature, the residue was dissolved in a mixture of ethyl acetate (40 ml), tetrahydrofuran (20 ml) and water (40 ml). The aqueous layer was further extracted with a mixture of ethyl acetate (40 ml) and tetrahydrofuran (20 ml). The combined organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was dissolved in ethanol (8 ml) and added slightly excess 4N hydrochloride in dioxane to afford [5-(2,5-dichlorophenyl)-3-[(2-dimethylaminoethyl)carbamoyl]benzoyl]guanidine.dihydrochloride.

reactant | guanidine.hydrochloride | 0.4 g | Cl.NC(=N)N
reactant | sodium methoxide | 0.76 ml | C[O-].[Na+]
reactant | methyl 5-(2,5-dichlorophenyl)-3-[(2-dimethylaminoethyl)carbamoyl]benzoate.hydrochloride | 0.36 g | Cl.ClC1=C(C=C(C=C1)Cl)C=1C=C(C=C(C(=O)OC)C1)C(NCCN(C)C)=O
solvent | N,N-dimethylformamide | 7.2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 40 ml | O | H2O
product | [5-(2,5-dichlorophenyl)-3-[(2-dimethylaminoethyl)carbamoyl]benzoyl]guanidine.dihydrochloride | Cl.Cl.ClC1=C(C=C(C=C1)Cl)C=1C=C(C=C(C(=O)NC(=N)N)C1)C(NCCN(C)C)=O | InChI=1S/C19H21Cl2N5O2.2ClH/c1-26(2)6-5-24-17(27)12-7-11(15-10-14(20)3-4-16(15)21)8-13(9-12)18(28)25-19(22)23;;/h3-4,7-10H,5-6H2,1-2H3,(H,24,27)(H4,22,23,25,28);2*1H
